US08293768B2
Synthesis of N-benzyl-2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide (0.22 g, 0.50 mmol) in chloroform (10 mL) was added trifluoroacetic acid (10 mL) at ambient temperature. The resulting reaction mixture was heated to reflux for 8 hours. The solvent was removed in vacuo and the residue was purified by column chromatography to afford the title compound in 64% yield (0.12 g): mp 167-168° C.; 1H NMR (300 MHz, CDCl3) δ 7.34-6.96 (m, 10H), 6.30-6.29 (m, 1H), 6.12 (s, 1H), 4.76 (s, 2H), 4.55 (d, J=5.4 Hz, 2H), 2.59 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6, 162.0, 153.4, 152.9, 150.5, 131.4, 129.8, 128.8, 127.8, 117.7, 120.0, 116.1, 115.8, 113.0, 107.6, 46.7, 44.1, 17.2; MS (ES+) m/z 423.2 (M+1).

reactant | N-benzyl-2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 0.50 mmol, 0.22 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1O)CC1=CC=C(C=C1)F)=O)C | C22H21FN4O3S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-benzyl-2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methylthiazole-5-carboxamide | 64% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(C=C1)CC1=CC=C(C=C1)F)=O)C | C22H19FN4O2S
